US07906660B2
Palladium-on-charcoal (5%, 0.08 g) was added to a suspension of 7-acetoxy-4′-methoxyisoflavone (0.5 g, 1.6 mmol) in absolute ethanol (400 ml) and the mixture was stirred at room temperature under a hydrogen atmosphere for 55 hours. The catalyst was removed by filtration through Celite and the filtrate was evaporated in vacuo to yield 7-acetoxy-4′-methoxyisoflavan-4-ol (0.51 g, 100%) in quantitative yield. A nuclear magnetic resonance spectrum revealed the product to be a clean 1:1 mixture of cis- and trans-7-acetoxy-4′-methoxyisoflavan-4-ol.

reactant | 7-acetoxy-4′-methoxyisoflavone | 1.6 mmol, 0.5 g | C(C)(=O)OC1=CC=C2C(C(=COC2=C1)C1=CC=C(C=C1)OC)=O | C18H14O5
solvent | ethanol | 400 ml | C(C)O | C2H6O
catalyst | Palladium-on-charcoal | 0.08 g | [Pd] | Pd
product | 7-acetoxy-4′-methoxyisoflavan-4-ol | 0.51 g, 100% | C(C)(=O)OC1=CC=C2C(C(COC2=C1)C1=CC=C(C=C1)OC)O | C18H18O5
